US04873262
2-Dipropylamino-8-formamidomethyl-1,2,3,4-tetrahydronaphthalene
2.04 ml (21.5 mmol) of acetic anhydride and 0.86 ml (22.8 mmol) of formic acid were stirred for 2 h at +60° C. under nitrogen. After cooling to room temperature, 2.6 g (10 mmol) of 2-dipropylamino-8-aminomethyl-1,2,3,4-tetrahydronaphthalene were added dropwise at a maximum of +25° C. After 15 minutes post-reaction, 5 ml of ether were added. The batch was subsequently stirred for a further 18 h at room temperature and then diluted with 20 ml of ether and 20 ml of water. The aqueous phase was adjusted to pH 9 using 1N sodium hydroxide solution and extracted with ether. The organic phase now obtained was washed with water and dried over sodium sulphate, and the solvent was removed by distillation. The residue was recrystallized from petroleum ether 60-80.

reactant | acetic anhydride | 21.5 mmol, 2.04 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 22.8 mmol, 0.86 ml | C(=O)O | CH2O2
reactant | 2-dipropylamino-8-aminomethyl-1,2,3,4-tetrahydronaphthalene | 10 mmol, 2.6 g | C(CC)N(C1CC2=C(C=CC=C2CC1)CN)CCC | C17H28N2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 2-Dipropylamino-8-formamidomethyl-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)CNC=O)CCC | C18H28N2O
